US08022205B2
In the same manner as Example 1-D-151, using a crude product of 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-fluoro-benzaldehyde (130 mg) and 1-acetylpiperazine (50 mg) instead of 1-ethylpiperazine, a crude product of 5-{7-[5-(4-acetyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine was obtained as colorless solid (63 mg). Using the crude product (63 mg) of 5-{7-[5-(4-acetyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine, according to the above Deprotection method 2,1-(4-{3-[4-(2-amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl]-4-fluoro-benzyl}-piperazin-1-yl)-ethanone was obtained as a colorless powder (30 mg, 70%).

reactant | 3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-fluoro-benzaldehyde | 130 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=C(C=O)C=CC3F)CC3=CC=C(C=C3)OC)C=C1 | C37H36FN7O4
reactant | 1-acetylpiperazine | 50 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
product | 5-{7-[5-(4-acetyl-piperazin-1-ylmethyl)-2-fluoro-phenyl]-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}-pyrimidin-2-yl-bis-(4-methoxy-benzyl)-amine | C(C)(=O)N1CCN(CC1)CC=1C=CC(=C(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)F | C43H48FN9O4
